US04697031
3-[4-(Phenylmethoxy)phenoxy]-1,2-propanediol
A mixture of 8.98 g of 2,2-dimethyl-4-[[4-(phenylmethoxy)phenoxy]methyl]-1,3-dioxolane, 15 g of a strongly acidic ion exchange resin and 200 ml of water was refluxed for 24 hours, then allowed to cool and methylene chloride was added. The mixture was filtered and the organic layer separated and saved. The aqueous layer was extracted several times with methylene chloride. All organic solutions were combined, dried and evaporated, giving 3.0 g of the desired compound, mp 125°-127° C.

reactant | 2,2-dimethyl-4-[[4-(phenylmethoxy)phenoxy]methyl]-1,3-dioxolane | 8.98 g | CC1(OCC(O1)COC1=CC=C(C=C1)OCC1=CC=CC=C1)C | C19H22O4
reactant | water | 200 ml | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-[4-(Phenylmethoxy)phenoxy]-1,2-propanediol | 3.0 g | C1(=CC=CC=C1)COC1=CC=C(OCC(CO)O)C=C1 | C16H18O4
